US04992559
Triethylamine (0.46 g, 4.4 mmol) was added dropwise to a stirred suspension of 3-(aminomethyl)thiophene hydrochloride (0.6 g, 4 mmol) in dry dichloromethane (20 ml) maintained under nitrogen at -5° C. After 15 minutes acetyl chloride (0.31 g, 4 mmol) was added dropwise to the solution which was then stirred for 3 hours at -5° C. After this time the reaction mixture was washed sequentially with dilute HCl (50 ml, 0.5M) and dilute NaOH (50 ml, 0.5 m). The organic layer was separated, dried with magnesium sulphate, and the solvent removed in vacuo to yield the crude product which was recrystallised from hexane to give N-(3-thienylmethyl)acetamide (0.52 g, 85%) M.p. 46°-47° C. (Found: C, 53.5; H, 6.2; N. 8.7, S, 20.4. Calculated for C7H9NOS: C, 54.2; H, 5.8, N, 9.0; S, 20.7 (%); IR (Nujol): 3250, 1650 cm-1 ; EI m/e Intensity (%): 155 (37, M+), 112 (55, C4H3S.CH2NH+), 97 (29, C4H3S.CH2+). 83 (12, C4H3S); δH(CDCl3) 7.00-7.29 (3H, m), 6.26 (1H, br,s), 4.41 (2H, d), 1.93 (3H, s); δC(CDCl3): 23.1, 38.7, 122.2, 126.3, 127.3, 139.8, 170.0 ppm.

reactant | Triethylamine | 4.4 mmol, 0.46 g | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)thiophene hydrochloride | 4 mmol, 0.6 g | Cl.NCC1=CSC=C1
reactant | acetyl chloride | 4 mmol, 0.31 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(3-thienylmethyl)acetamide | 0.52 g, 85% | S1C=C(C=C1)CNC(C)=O | C7H9NOS
